US05696132
Ethyl 1-[(1R,2S)-2-Fluorocyclopropyl]-6,7,8-trifluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate
In 10 ml of anhydrous dioxane was dissolved 1.15 g of ethyl 3-[(1R,2S)-2-fluorocyclopropylamino]-2-(2,3,4,5-tetrafluoro-6-methylbenzoyl)acrylate, and 190 mg of 60% sodium hydride in oil was added thereto, followed by stirring at room temperature for 30 minutes. The dioxane was concentrated to about half the volume, and the concentrate was added to 25 ml of 1N hydrochloric acid under cooling with ice. The crystals precipitated were collected by filtration, washed with diethyl ether, and dried to yield 1.05 g of the titled compound as a yellow crystal.

reactant | ethyl 3-[(1R,2S)-2-fluorocyclopropylamino]-2-(2,3,4,5-tetrafluoro-6-methylbenzoyl)acrylate | 1.15 g | F[C@@H]1[C@@H](C1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1C)F)F)F)F)=O | C16H14F5NO3
reactant | sodium hydride | 190 mg | [H-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | Ethyl 1-[(1R,2S)-2-Fluorocyclopropyl]-6,7,8-trifluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.05 g | F[C@@H]1[C@@H](C1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)OCC | C16H13F4NO3
